US09212168B2
To a solution of 5-amino-2-bromo-4-chlorobenzotrifluoride (466 mg, 1.70 mmol) dissolved in DCM (1 mL) was slowly added a solution of 2-fluoropyridine-5-carbonyl chloride (270 mg, 1.70 mmol) in DCM (1 mL). A few drops of DMA were added and the reaction mixture was concentrated to form N-(4-bromo-2-chloro-5-trifluoromethyl-phenyl)-6-fluoro-nicotinamide as a purple solid.

reactant | 5-amino-2-bromo-4-chlorobenzotrifluoride | 1.70 mmol, 466 mg | NC=1C(=CC(=C(C1)C(F)(F)F)Br)Cl | C7H4BrClF3N
reactant | 2-fluoropyridine-5-carbonyl chloride | 1.70 mmol, 270 mg | FC1=NC=C(C=C1)C(=O)Cl | C6H3ClFNO
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | DMA | A few drops | CC(=O)N(C)C | C4H9NO
product | N-(4-bromo-2-chloro-5-trifluoromethyl-phenyl)-6-fluoro-nicotinamide | BrC1=CC(=C(C=C1C(F)(F)F)NC(C1=CN=C(C=C1)F)=O)Cl | C13H6BrClF4N2O
